US04299834
(b) 8-(2-Ethoxy-4-methoxy-phenyl)-purine
An amount of 2.3 g of 4-amino-5-(2-ethoxy-4-methoxybenzoylamino)-pyrimidine was refluxed in 20 ml of phosphorus oxychloride for 2.5 hours. The reaction mixture was poured on ice, and the solid product formed was filtered off. The filtrate was made alkaline by means of sodium bicarbonate and extracted with ethyl acetate. After evaporation of the ethyl acetate phases, the residue was combined with the solid product obtained above and purified by chromatography on silicagel (eluate: methylene chloride/ethanol in volume ratio of from 100:0 to 97:3).

reactant | 4-amino-5-(2-ethoxy-4-methoxybenzoylamino)-pyrimidine | 2.3 g | NC1=NC=NC=C1NC(C1=C(C=C(C=C1)OC)OCC)=O | C14H16N4O3
solvent | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(2-Ethoxy-4-methoxy-phenyl)-purine | C(C)OC1=C(C=CC(=C1)OC)C1=NC2=NC=NC=C2N1 | C14H14N4O2
